US07176242B2
A solution of methyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate (315 mg, 0.95 mmol) in methanol (3 mL) and potassium hydroxide (3 mL of a 1.0 M solution in water, 3 mmol) was stirred at room temperature for 30 min. The solvent was removed under reduced pressure, the residue was dissolved in water, and extracted with ethyl acetate. The aqueous layer was acidified to pH 3 with 1 M hydrochloric acid, extracted with chloroform (3×100 mL), and the combined organic layers were concentrated under reduced pressure to afford 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoic acid (265 mg): 1H NMR (300 MHz, CD3OD) δ 8.71 (s, 1H), 8.08 (s, 2H), 8.05 (s, 1H), 7.34 (s, 1H), 3.52 (t, J=8 Hz, 2H), 3.26 (t, J=8 Hz, 2H), 1.75 (q, J=8 Hz, 2H), 1.59 (q, J=8 Hz, 2H), 1.02 (t, J=8 Hz, 3H), 0.74 (t, J=8 Hz, 3H).

reactant | methyl 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoate | 0.95 mmol, 315 mg | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)C=1OC=CN1)CCC | C18H22N2O4
solvent | methanol | 3 mL | CO | CH4O
solvent | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | 3-[(dipropylamino)carbonyl]-5-(1,3-oxazol-2-yl)benzoic acid | 265 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1OC=CN1)CCC | C17H20N2O4
